US07371772B2
A suspension of 85% potassium hydroxide (36.6 g), and tetrabutylammonium bromide (9.1 g) in toluene (400 ml) was refluxed overnight in a Dean Stalk apparatus. Then, a solution of 2-piperidone (50.0 g) and iodoisobutane (120.7 g) in toluene (150 ml) was added dropwise at 115° C. to the solution above. After the dropwise addition, the mixture was refluxed further for 2.5 hours, and then cooled, and filtered to remove insoluble matter. The filtrate was washed with water, and the aqueous layer was extracted with toluene. The organic layers were combined and dried over magnesium sulfate. After distilling off the solvent under reduced, the residue was separated and purified by silica gel column chromatography (ethyl acetate) to obtain yellow oil of 1-isobutyl-2-piperidone (9.3 g).

reactant | potassium hydroxide | 36.6 g | [OH-].[K+]
reactant | 2-piperidone | 50.0 g | N1C(CCCC1)=O | C5H9NO
reactant | iodoisobutane | 120.7 g | ICC(C)C | C4H9I
catalyst | tetrabutylammonium bromide | 9.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-isobutyl-2-piperidone | 9.3 g | C(C(C)C)N1C(CCCC1)=O | C9H17NO
